US05225431
Preparation of 3-Benzyl-1-(4-nitrobenzyl)imidazolidin-2,4-dione
A solution of 3-benzylimidazolidin-2,4-dione (5.7 g, JACS 1965, 3414) in DMF (10 ml) was added under N2 to a stirred suspension of anhy. K2CO3 (4.1 g) in DMF (10 ml), followed by the addition of a solution of p-nitrobenzyl bromide (6.45 g, Aldrich) in DMF (10 ml). After additions were complete, the mixture was stirred at room temperature for 72 hours, then poured into ice-water and extracted with ethyl acetate (×3). The combined extracts were washed with water (×2) and brine, dried over MgSO4 and evaporated to give a yellow oil which was flash chromatographed through a silica column using chloroform to give the desired product as a pale yellow solid (7.9 g).

reactant | 3-benzylimidazolidin-2,4-dione | 5.7 g | C(C1=CC=CC=C1)N1C(NCC1=O)=O | C10H10N2O2
reactant | K2CO3 | 4.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | p-nitrobenzyl bromide | 6.45 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Benzyl-1-(4-nitrobenzyl)imidazolidin-2,4-dione | 7.9 g | C(C1=CC=CC=C1)N1C(N(CC1=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H15N3O4
